* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : flipflopD_barless_x1                         *
* Netlisted  : Sat Nov 29 19:17:02 2025                     *
* PVS Version: 23.11-s036 Wed Jan 17 18:11:41 PST 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PSUB_CDNS_764454616470                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PSUB_CDNS_764454616470 1
** N=1 EP=1 FDC=0
.ends M1_PSUB_CDNS_764454616470

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_NWELL_CDNS_764454616471                      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_NWELL_CDNS_764454616471 1 2
** N=2 EP=2 FDC=0
.ends M1_NWELL_CDNS_764454616471

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_764454616472                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_764454616472 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_764454616472

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_764454616473                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_764454616473 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_764454616473

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_764454616474                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_764454616474 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_764454616474

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_764454616476                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_764454616476 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_764454616476

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_764454616477                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_764454616477 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_764454616477

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M3_M2_CDNS_764454616478                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M3_M2_CDNS_764454616478 1
** N=1 EP=1 FDC=0
.ends M3_M2_CDNS_764454616478

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_764454616479                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_764454616479 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_764454616479

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_764454616470                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_764454616470 1 2 3 4
** N=4 EP=4 FDC=1
M0 3 2 1 4 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=4.92313 scb=0.000827672 scc=8.57018e-07 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_764454616470

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_764454616471                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_764454616471 1 2 3 4 5
*.DEVICECLIMB
** N=5 EP=5 FDC=0
.ends pmos1v_CDNS_764454616471

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_764454616472                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_764454616472 1 2 3 4
** N=4 EP=4 FDC=1
M0 1 2 3 3 g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.32e-14 PD=5.7e-07 PS=6.1e-07 fw=1.45e-07 sa=3.45e-07 sb=1.4e-07 sca=22.508 scb=0.0238066 scc=0.00185903 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_764454616472

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_764454616473                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_764454616473 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 1 g45p1svt L=4.5e-08 W=1.45e-07 AD=2.32e-14 AS=2.03e-14 PD=6.1e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=3.45e-07 sca=22.508 scb=0.0238066 scc=0.00185903 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_764454616473

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_764454616474                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_764454616474 1 2 3 4 5
** N=5 EP=5 FDC=1
M0 1 2 3 5 g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.32e-14 PD=5.7e-07 PS=6.1e-07 fw=1.45e-07 sa=3.45e-07 sb=1.4e-07 sca=22.508 scb=0.0238066 scc=0.00185903 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_764454616474

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_764454616475                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_764454616475 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 1 g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.32e-14 PD=5.7e-07 PS=6.1e-07 fw=1.45e-07 sa=3.45e-07 sb=1.4e-07 sca=22.508 scb=0.0238066 scc=0.00185903 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_764454616475

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_764454616476                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_764454616476 1 2 3
** N=3 EP=3 FDC=1
M0 1 2 3 3 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.92e-14 PD=5.2e-07 PS=5.6e-07 fw=1.2e-07 sa=3.45e-07 sb=1.4e-07 sca=4.92313 scb=0.000827672 scc=8.57018e-07 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_764454616476

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_764454616477                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_764454616477 1 2 3
** N=3 EP=3 FDC=1
M0 2 3 1 1 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.92e-14 PD=5.2e-07 PS=5.6e-07 fw=1.2e-07 sa=3.45e-07 sb=1.4e-07 sca=4.92313 scb=0.000827672 scc=8.57018e-07 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_764454616477

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: flipflopD_barless_x1                            *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt flipflopD_barless_x1 D Q clk gnd! vdd!
** N=10 EP=5 FDC=12
X0 gnd! M1_PSUB_CDNS_764454616470 $T=4310 300 0 0 $X=1890 $Y=160
X1 vdd! gnd! M1_NWELL_CDNS_764454616471 $T=4300 3700 0 0 $X=1840 $Y=3400
X2 3 M1_PO_CDNS_764454616472 $T=1150 2380 0 90 $X=1030 $Y=2280
X3 clk M1_PO_CDNS_764454616472 $T=5150 1750 0 0 $X=5050 $Y=1630
X4 5 M1_PO_CDNS_764454616473 $T=1660 1590 0 0 $X=1320 $Y=1470
X5 6 M1_PO_CDNS_764454616473 $T=5240 2360 0 0 $X=4900 $Y=2240
X6 7 M2_M1_CDNS_764454616474 $T=2470 2150 0 0 $X=2250 $Y=2020
X7 6 M2_M1_CDNS_764454616474 $T=3320 2360 0 0 $X=3100 $Y=2230
X8 6 M2_M1_CDNS_764454616474 $T=5240 2360 0 0 $X=5020 $Y=2230
X9 clk M2_M1_CDNS_764454616474 $T=7930 2210 0 0 $X=7710 $Y=2080
X10 5 M2_M1_CDNS_764454616476 $T=1660 1590 0 0 $X=1300 $Y=1460
X11 Q M2_M1_CDNS_764454616476 $T=6940 2350 0 0 $X=6580 $Y=2220
X12 7 M2_M1_CDNS_764454616477 $T=4770 1760 0 180 $X=4690 $Y=1630
X13 6 M2_M1_CDNS_764454616477 $T=8040 1640 0 0 $X=7960 $Y=1510
X14 7 M3_M2_CDNS_764454616478 $T=2330 2150 0 0 $X=2250 $Y=2020
X15 7 M3_M2_CDNS_764454616478 $T=4770 1760 0 0 $X=4690 $Y=1630
X16 5 M2_M1_CDNS_764454616479 $T=3410 1270 0 0 $X=3330 $Y=1000
X17 clk M2_M1_CDNS_764454616479 $T=5150 1760 0 0 $X=5070 $Y=1490
X18 gnd! 5 3 gnd! nmos1v_CDNS_764454616470 $T=720 1000 0 0 $X=300 $Y=800
X19 gnd! 3 7 gnd! nmos1v_CDNS_764454616470 $T=2500 1000 0 0 $X=2080 $Y=800
X20 5 clk D gnd! nmos1v_CDNS_764454616470 $T=4380 1000 0 0 $X=3960 $Y=800
X21 Q clk 6 gnd! nmos1v_CDNS_764454616470 $T=7790 1000 0 0 $X=7370 $Y=800
X22 vdd! 3 5 gnd! vdd! pmos1v_CDNS_764454616471 $T=720 2870 0 0 $X=300 $Y=2670
X23 5 7 clk gnd! vdd! pmos1v_CDNS_764454616471 $T=4380 2870 0 0 $X=3960 $Y=2670
X24 Q 10 vdd! gnd! pmos1v_CDNS_764454616472 $T=6390 2870 0 0 $X=6150 $Y=2670
X25 vdd! 7 3 gnd! pmos1v_CDNS_764454616473 $T=2500 2870 0 0 $X=2080 $Y=2670
X26 6 clk 7 gnd! vdd! pmos1v_CDNS_764454616474 $T=2910 2870 0 0 $X=2670 $Y=2670
X27 vdd! 10 6 gnd! pmos1v_CDNS_764454616475 $T=6070 2870 1 180 $X=5560 $Y=2670
X28 Q 10 gnd! nmos1v_CDNS_764454616476 $T=6390 1000 0 0 $X=6150 $Y=800
X29 gnd! 10 6 nmos1v_CDNS_764454616477 $T=6070 1000 1 180 $X=5560 $Y=800
M0 3 5 vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=28.4097 scb=0.0321484 scc=0.00204568 $X=720 $Y=2870 $dt=1
M1 7 clk 5 vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=22.508 scb=0.0238066 scc=0.00185903 $X=4380 $Y=2870 $dt=1
.ends flipflopD_barless_x1
